US06469021B1
Preparation of 4-[1-(2-{[9-(2,5-dichlorobenzyl)-9H-β-carboline-3-yl]carbonyl}hydrazono)-ethyl]benzoic acid
A mixture of 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carbohydrazide (100 mg, 0.25 mmole), 4-acetyl benzoic acid (50 mg, 0.3 mmole), DMSO (5 mL), and one drop of glacial acetic acid was stirred at room temperature for 12 hours. Ethyl acetate (50 ml) was added to the flask. The mixture was extracted with water and brine. The product crystallized from the organic phase was filtered, affording 97 mg (73%) of the title compound. 1H NMR (DMSO-d6) δ9.0 (s, 2H), 8.5 (d, 1H), 8.25 (s, 1H), 8.0-7.9 (m, 4H), 7.6-7.5 (m, 3H), 7.4-7.3 (m, 2H), 6.6 (s, 1H), 5.9 (s, 2H), 2.4 (s, 3H),MS (APCI; (M+H)+) m/z 531.

reactant | 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carbohydrazide | 0.25 mmole, 100 mg | ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)NN)C=C(C=C1)Cl | C19H14Cl2N4O
reactant | 4-acetyl benzoic acid | 0.3 mmole, 50 mg | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-{[9-(2,5-dichlorobenzyl)-9H-β-carboline-3-yl]carbonyl}hydrazono)-ethyl]benzoic acid | 97 mg, 73% | ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)NN=C(C)C2=CC=C(C(=O)O)C=C2)C=C(C=C1)Cl | C28H20Cl2N4O3
